US07858800B2
tert-Butyl 4-(2-phenyl-2H-tetrazol-5-yl)-1,2,3,6-tetrahydropyridine-1-carboxylate
Dimethylformamide (2 m) was added to 104 mg of tert-butyl 4-cyano-1,2,3,6-tetrahydropyridine-1-carboxylate prepared in 1) of Example 23, 310 mg of sodium azide and 260 mg of ammonium chloride and the mixture was stirred at 115° C. for 3 hours. After cooling down to room temperature, ethyl acetate and a 2N aqueous solution of sodium hydroxide were added thereto. After the aqueous layer was neutralized with a 1N aqueous solution of hydrochloric acid, the product was extracted with chloroform. The extract was dried over sodium sulfate, the solvent was evaporated in vacuo and the resulting residue was purified by a silica gel thin-layer chromatography (chloroform/methanol=7/1) to give 12 mg of the title compound as a crude product.

reactant | tert-butyl 4-cyano-1,2,3,6-tetrahydropyridine-1-carboxylate | 104 mg | C(#N)C=1CCN(CC1)C(=O)OC(C)(C)C | C11H16N2O2
reactant | sodium azide | 310 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 260 mg | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Dimethylformamide | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(2-phenyl-2H-tetrazol-5-yl)-1,2,3,6-tetrahydropyridine-1-carboxylate | 12 mg | C1(=CC=CC=C1)N1N=C(N=N1)C=1CCN(CC1)C(=O)OC(C)(C)C | C17H21N5O2
